US08193199B2
A solution of (2-(3-fluorophenyl)-8-methoxyquinolin-3-yl)methanol (2.2330 g, 7.882 mmol) in chloroform (26.27 mL, 7.882 mmol) was treated with thionyl chloride (2.868 mL, 39.41 mmol) dropwise, and the reaction mixture was stirred at room temperature. After 3 h, the mixture was concentrated under reduced pressure and co-evaporated three times with CH2Cl2 to give 3-(chloromethyl)-2-(3-fluorophenyl)-8-methoxyquinoline hydrochloride as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.59 (1H, s), 7.55-7.65 (3H, m), 7.44-7.52 (2H, m), 7.33-7.41 (1H, m), 7.23-7.30 (1H, m), 4.91 (2H, s); LC-MS (ESI) m/z 302.0 [M+H]+ (Exact Mass of neutral form: 301.067). The yellow solid was carried on crude without purification for the next step.

reactant | (2-(3-fluorophenyl)-8-methoxyquinolin-3-yl)methanol | 7.882 mmol, 2.2330 g | FC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1CO)OC | C17H14FNO2
reactant | chloroform | 7.882 mmol, 26.27 mL | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 39.41 mmol, 2.868 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-(chloromethyl)-2-(3-fluorophenyl)-8-methoxyquinoline hydrochloride | Cl.ClCC=1C(=NC2=C(C=CC=C2C1)OC)C1=CC(=CC=C1)F | InChI=1S/C17H13ClFNO.ClH/c1-21-15-7-3-5-11-8-13(10-18)16(20-17(11)15)12-4-2-6-14(19)9-12;/h2-9H,10H2,1H3;1H
